US08071592B2
(a) Diethyl α-formylglutarate Sodium Salt
Prepared from diethyl glutarate and ethyl formate in the presence of sodium metal in diethyl ether according to the literature procedure (J. Bigs, P. Sykes, J. Chemical Society (1959), 1849-55). Obtained solid (28 g; 45%). LCMS (ES+) m/z 238 (MH+).

reactant | diethyl glutarate | C(CCCC(=O)OCC)(=O)OCC | C9H16O4
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium | [Na] | Na
solvent | diethyl ether | C(C)OCC | C4H10O
product | Diethyl α-formylglutarate Sodium Salt | [Na].C(=O)C(C(=O)OCC)CCC(=O)OCC | InChI=1S/C10H16O5.Na/c1-3-14-9(12)6-5-8(7-11)10(13)15-4-2;/h7-8H,3-6H2,1-2H3;
